US08383644B2
(S)-2-({(S)-7-[4-(2-Acetylamino-thiazol-4-yl)-benzenesulfonyl]-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester (30 mg) was treated with HCl according to General Procedure N to give (S)-2-({(S)-7-[4-(2-Amino-thiazol-4-yl)-benzenesulfonyl]-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester. This was hydrolyzed according to General Procedure B to give the title compound (20 mg). LCMS (m/z): 972.

reactant | (S)-2-({(S)-7-[4-(2-Acetylamino-thiazol-4-yl)-benzenesulfonyl]-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester | 30 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)S(=O)(=O)C3=CC=C(C=C3)C=3N=C(SC3)NC(C)=O)=O | C53H43Cl2N5O9S2
reactant | HCl | Cl | ClH
product | (S)-2-({(S)-7-[4-(2-Amino-thiazol-4-yl)-benzenesulfonyl]-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)S(=O)(=O)C3=CC=C(C=C3)C=3N=C(SC3)N)=O | C51H41Cl2N5O8S2
